US07795270B2
1-(4′-Tritylaminobutyl)uracil (21)
Trityl chloride (0.358 g, 1.28 mmol) was added to a solution of 1-(4′-aminobutyl)uracil (contaminated by 11% 1,3-bis(4′-aminobutyl)uracil) (0.168 g) in anhydrous pyridine (15 mL). The reaction mixture was heated at 50° C. for 44 h, left to cool to room temperature, poured into cold water (50 mL) and extracted with DCM (3×25 mL). The organic extracts were washed with brine (40 mL), dried over Na2SO4 and concentrated in vacuo. Further purification was carried out by silica gel column chromatography, using Jones Chromatography Isolute SI columns with a gradient elution of 0→5% CH3OH in CHCl3. The fractions with Rf=0.51 (10% CH3OH/CHCl3) gave the title compound as a white crystalline solid (94 mg, ca 24%).

reactant | Trityl chloride | 1.28 mmol, 0.358 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | 1-(4′-aminobutyl)uracil | 0.168 g | NCCCCN1C(=O)NC(=O)C=C1 | C8H13N3O2
reactant | water | 50 mL | O | H2O
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 1-(4′-Tritylaminobutyl)uracil | 94 mg, ca 24% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCCCCN1C(=O)NC(=O)C=C1 | C27H27N3O2
